US09062076B2
LiBH4 (63 mg, 3 mmol) was added to a stirred solution of ethyl 2-(2-iodo-4,5-dimethoxybenzamido)acetate (379 mg, 1 mmol) in THF (2 mL) at −10° C. The reaction was stirred for 5 min then methanol (0.22 mL) was added dropwise. The reaction mixture was warmed to room temperature, stirred for 30 minutes and quenched by addition of water. The THF was removed under reduced pressure and the aqueous residue was thoroughly extracted with DCM. The combined organic phases were washed with brine, dried over sodium sulphate and evaporated to give the crude product which was purified by re-crystallization from EtOAc and hexane to give N-(2-hydroxyethyl)-2-iodo-4,5-dimethoxybenzamide (280 mg, 80%) LC-MS (ES-API); rt 7.60 min; m/z calculated for C11H14NO4 [M+H]+ 352.0, found 352.0.

reactant | LiBH4 | 3 mmol, 63 mg | [Li+].[BH4-]
reactant | ethyl 2-(2-iodo-4,5-dimethoxybenzamido)acetate | 1 mmol, 379 mg | IC1=C(C(=O)NCC(=O)OCC)C=C(C(=C1)OC)OC | C13H16INO5
reactant | methanol | 0.22 mL | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-(2-hydroxyethyl)-2-iodo-4,5-dimethoxybenzamide | 280 mg, 80% | OCCNC(C1=C(C=C(C(=C1)OC)OC)I)=O | C11H14INO4
